US05147645
103 g of 1-(3'-chloro-2'-methylphenyl)-cyclohexene is dissolved in 1,200 ml of ethanol; 5 g of Pd/charcoal is then added. Hydrogenation is then carried out for 8 hours at room temperature and a hydrogen pressure of 80 bar. The catalyst is filtered off and the remaining solution is evaporated down. Fractional distillation gives 51.8 g of 3-cyclohexyl-2-methylchlorobenzene.

reactant | 1-(3'-chloro-2'-methylphenyl)-cyclohexene | 103 g | ClC=1C(=C(C=CC1)C1=CCCCC1)C | C13H15Cl
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1,200 ml | C(C)O | C2H6O
catalyst | Pd charcoal | 5 g | [Pd].C
product | 3-cyclohexyl-2-methylchlorobenzene | 51.8 g | C1(CCCCC1)C=1C(=C(C=CC1)Cl)C | C13H17Cl
